US06787543B2
1-[3-(Dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (1.15 g) was added over 5 minutes to a mixture of N-(2-methoxybenzyl)glycine methyl ester hydrochloride (1.72 g), N-(tert-butoxycarbonyl)-3,3-diphenyl-L-alanine (1.71 g), 1-hydroxybenzotriazole (0.81 g) and N,N-diisopropylethylamine (1.22 ml) in dichloromethane (40 ml). After being stirred for 3 hours at room temperature, the resulting mixture was extracted with ethyl acetate. The extract was washed with brine, dried over sodium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel using a mixed solvent of hexane and ethyl acetate (4:1) to give N-[(2S)-2-(tert-butoxycarbonylamino)-3,3-diphenylpropionyl]-N-(2-methoxybenzyl)glycine methyl ester (2.34 g) as a colorless powder.

reactant | 1-[3-(Dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 1.15 g | Cl.CN(CCCN=C=NCC)C
reactant | N-(2-methoxybenzyl)glycine methyl ester hydrochloride | 1.72 g | Cl.COC(CNCC1=C(C=CC=C1)OC)=O
reactant | N-(tert-butoxycarbonyl)-3,3-diphenyl-L-alanine | 1.71 g | C(C)(C)(C)OC(=O)N[C@@H](C(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)O | C20H23NO4
reactant | 1-hydroxybenzotriazole | 0.81 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N,N-diisopropylethylamine | 1.22 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | N-[(2S)-2-(tert-butoxycarbonylamino)-3,3-diphenylpropionyl]-N-(2-methoxybenzyl)glycine methyl ester | 2.34 g | COC(CN(CC1=C(C=CC=C1)OC)C([C@H](C(C1=CC=CC=C1)C1=CC=CC=C1)NC(=O)OC(C)(C)C)=O)=O | C31H36N2O6
